US09216980B2
Step 1: 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-methanol
Lithium aluminium hydride (1M solution in THF, 16.3 mL, 16.3 mmol) was added dropwise to a suspension of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (500 mg, 1.63 mmol) in THF (10 mL). After 10 minutes the reaction mixture was quenched with a solution of saturated ammonium chloride, diluted with DCM and water and the solid removed by filtration. The layers of the resultant filtrate were separated and the aqueous phase was further extracted with DCM. The combined organic layer was concentrated in vacuo and purified by flash chromatography (silica, 1-15% methanol in DCM).

reactant | Lithium aluminium hydride | 16.3 mmol, 1M, 16.3 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 1.63 mmol, 500 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)Br | C12H8BrN3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-methanol | BrC1=CC2=C(NC3=C2C=C(N=C3)CO)N=C1 | C11H8BrN3O
